US05569658
After repetition of the previous steps, a mixture of 7-chloro-4-(3'-methylanilino)-6-nitroquinazoline (10.5 g), an ethanolic solution of methylamine (30% weight/volume; 100 ml) and ethanol (100 ml) was stirred at ambient temperature for 16 hours. The mixture was evaporated to give 7-methylamino-4-(3'-methylanilino)-6-nitroquinazoline which was used without further purification.

reactant | 7-chloro-4-(3'-methylanilino)-6-nitroquinazoline | 10.5 g | ClC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C)[N+](=O)[O-] | C15H11ClN4O2
reactant | methylamine | 100 ml | CN | CH5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 7-methylamino-4-(3'-methylanilino)-6-nitroquinazoline | CNC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C)[N+](=O)[O-] | C16H15N5O2
